US07786115B2
A suspension of 3-[7-(2-chloroethoxy)-4-methyl-1-oxoisoquinolin-2(1H)-yl]-4-methylbenzoic acid (550 mg) in methylene chloride (10 ml) was cooled to 0° C. and oxalyl chloride (0.26 ml) was added followed by DMF (10 μl) and the reaction mixture was left to stir at room temperature for 1 hour when N,N′-diisopropylethylamine (1.03 ml) and cyclobutylamine (0.51 ml) were added. The reaction mixture was stirred at room temperature for 4 hours and concentrated. The residue was diluted with ethyl acetate and washed with water (×3), brine, dried (magnesium sulfate) and concentrated to a brown foam which was purified by column chromatography on a silica column eluting using a gradient of iso-hexane to ethyl acetate to give 3-[7-(2-chloroethoxy)-4-methyl-1-oxoisoquinolin-2(1H)-yl]-N-cyclobutyl-4-methylbenzamide as a pale yellow solid (397 mg); NMR Spectrum: (DMSOd6) 1.66 (m, 2H), 2.06 (m, 2H), 2.12 (s, 3H), 2.21 (m, 2H), 2.28 (s, 3H), 4.01 (t, 2H), 4.38-4.46 (m, 3H), 7.12 (s, 1H), 7.49-7.54 (m, 2H), 7.74-7.76 (m, 2H), 7.81 (s, 1H), 7.89 (d, 1H), 8.60 (d, 1H); Mass Spectrum: M+ 425.

reactant | 3-[7-(2-chloroethoxy)-4-methyl-1-oxoisoquinolin-2(1H)-yl]-4-methylbenzoic acid | 550 mg | ClCCOC1=CC=C2C(=CN(C(C2=C1)=O)C=1C=C(C(=O)O)C=CC1C)C | C20H18ClNO4
reactant | oxalyl chloride | 0.26 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N′-diisopropylethylamine | 1.03 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclobutylamine | 0.51 ml | C1(CCC1)N | C4H9N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 μl | CN(C)C=O | C3H7NO
product | 3-[7-(2-chloroethoxy)-4-methyl-1-oxoisoquinolin-2(1H)-yl]-N-cyclobutyl-4-methylbenzamide | 397 mg | ClCCOC1=CC=C2C(=CN(C(C2=C1)=O)C=1C=C(C(=O)NC2CCC2)C=CC1C)C | C24H25ClN2O3
